US07777047B2
ethyl 5-[3-(methylsulfonyl)propoxy]-7-nitro-1H-indole-2-carboxylate
A mixture of ethyl 5-hydroxy-7-nitro-1H-indole-2-carboxylate (300 mg), 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate (410 mg), potassium carbonate (170 mg) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 hr. Ethyl 5-hydroxy-7-nitro-1H-indole-2-carboxylate (100 mg) was added to the reaction mixture, and the mixture was further stirred at 50° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was washed with diisopropyl ether to give the title compound (400 mg, yield 77%) as yellow crystals. The crystals were recrystallized from acetone-hexane to give yellow prism crystals. melting point 162-163° C.

reactant | ethyl 5-hydroxy-7-nitro-1H-indole-2-carboxylate | 300 mg | OC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C11H10N2O5
reactant | 3-(methylsulfonyl)propyl 4-methylbenzenesulfonate | 410 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCCS(=O)(=O)C | C11H16O5S2
reactant | potassium carbonate | 170 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | Ethyl 5-hydroxy-7-nitro-1H-indole-2-carboxylate | 100 mg | OC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C11H10N2O5
solvent | Water | O | H2O
product | ethyl 5-[3-(methylsulfonyl)propoxy]-7-nitro-1H-indole-2-carboxylate | 400 mg, yield 77% | CS(=O)(=O)CCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C15H18N2O7S
